US07767675B2
Step 3. 6-(1-{6-[4-(2-oxo-2-pyrrolidin-1-ylethoxy)phenyl]imidazo[1,2-a]pyrimidin-3-yl}cyclopropyl)quinoline
A mixture of 5-[4-(2-oxo-2-pyrrolidin-1-ylethoxy)phenyl]pyrimidin-2-amine (23.9 mg, 0.08 mmol) and chloro(1-quinolin-6-ylcyclopropyl)acetaldehyde (19.6 mg, 0.08 mmol) in isopropyl alcohol (0.4 mL) was heated at 90° C. overnight. The mixture was diluted with methanol, and purified by RP-HPLC (pH 10) to give the desired product. LCMS: (M+H)=490.1.

reactant | 5-[4-(2-oxo-2-pyrrolidin-1-ylethoxy)phenyl]pyrimidin-2-amine | 0.08 mmol, 23.9 mg | O=C(COC1=CC=C(C=C1)C=1C=NC(=NC1)N)N1CCCC1 | C16H18N4O2
reactant | chloro(1-quinolin-6-ylcyclopropyl)acetaldehyde | 0.08 mmol, 19.6 mg | ClC(C=O)C1(CC1)C=1C=C2C=CC=NC2=CC1 | C14H12ClNO
solvent | isopropyl alcohol | 0.4 mL | C(C)(C)O | C3H8O
solvent | methanol | CO | CH4O
product | 6-(1-{6-[4-(2-oxo-2-pyrrolidin-1-ylethoxy)phenyl]imidazo[1,2-a]pyrimidin-3-yl}cyclopropyl)quinoline | O=C(COC1=CC=C(C=C1)C=1C=NC=2N(C1)C(=CN2)C2(CC2)C=2C=C1C=CC=NC1=CC2)N2CCCC2 | C30H27N5O2
